US08048909B2
5-(Pyridin-2-yl)-1H-pyrrole-3-carbaldehyde
To a solution (50 mL) of [5-(pyridin-2-yl) -1H-pyrrol-3-yl]methanol (0.96 g) in acetonitrile were added tetra-n-propylammonium perruthenate (194 mg), N-methylmorpholine N-oxide (2.98 g) and molecular sieves 4A powder (5 g), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→1:1) to give the title compound as colorless crystals (yield 270 mg, 29%).

reactant | [5-(pyridin-2-yl) -1H-pyrrol-3-yl]methanol | 50 mL, 0.96 g | N1=C(C=CC=C1)C1=CC(=CN1)CO | C10H10N2O
reactant | N-methylmorpholine N-oxide | 2.98 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetra-n-propylammonium perruthenate | 194 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-(Pyridin-2-yl)-1H-pyrrole-3-carbaldehyde | yield 270 mg, 29% | N1=C(C=CC=C1)C1=CC(=CN1)C=O | C10H8N2O
